US04144257
20 m moles of nickel acetylacetonate was suspended in 20 ml of n-hexane and 20 ml of 1,5-cyclooctadiene, and an n-hexane solution containing 100 m moles of diethyl aluminum ethoxide [(C2H5)2AlOC2H5 ] was added dropwise thereto at a temperature of -5° to -10° C. The resulting yellow colored crystals were filtered out and then recrystallized from benzene. Thus, bis-cyclooctadiene nickel was obtained.

reactant | nickel acetylacetonate | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
reactant | diethyl aluminum ethoxide | [O-]CC.C(C)[Al+]CC
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | 1,5-cyclooctadiene | 20 ml | C1=CCCC=CCC1 | C8H12
product | bis-cyclooctadiene nickel | [Ni].C1=CC=CCCCC1.C1=CC=CCCCC1 | InChI=1S/2C8H12.Ni/c2*1-2-4-6-8-7-5-3-1;/h2*1-4H,5-8H2;
